US07183306B2
1M NaOH (4.8 ml) was added to a solution of 4-benzyloxybenzaldehyde (5 g) and cyclopropyl methyl ketone (3.96 g) in EtOH (24 ml) and the mixture was stirred at ambient temperature overnight. The reaction mixture was diluted with H2O and EtOH. The mixture was stirred at ambient temperature for 20 minutes. Pale yellow crystals were collected and washed with H2O and 50% aqueous EtOH to give (2E)-3-[4-(benzyloxy)phenyl]-1-cyclopropyl-2-propen-1-one (6.29 g).

reactant | NaOH | 1M, 4.8 ml | [OH-].[Na+]
reactant | 4-benzyloxybenzaldehyde | 5 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | cyclopropyl methyl ketone | 3.96 g | CC(=O)C1CC1 | C5H8O
solvent | EtOH | 24 ml | CCO | C2H6O
solvent | H2O | O | H2O
product | (2E)-3-[4-(benzyloxy)phenyl]-1-cyclopropyl-2-propen-1-one | 6.29 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C(=O)C1CC1 | C19H18O2
